US09315490B2
30a) (1-(5-Bromopyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(morpholino)methanone
A solution of m-chloroperoxybenzoic acid (77%, 2.10 g, 9.42 mmol) in dichloromethane (20 mL) was added at 0° C. to (1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone (0.18 g, 0.25 mmol) in dry dichloromethane (300 mL). The mixture was stirred at room temperature for 4 h and then poured onto saturated sodium sulfite solution (20 mL). The organic layer was separated after stirring for 15 min and washed with saturated sodium hydrogen carbonate solution and brine. The organic phase was then dried over sodium sulphate and concentrated. The residue was purified by flash column chromatography [methanol/dichloromethane=1:40]. White solid. Yield: 3.2 g.

reactant | m-chloroperoxybenzoic acid | 9.42 mmol, 2.10 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | (1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone | 0.25 mmol, 0.18 g | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)SC | C18H17BrN4O2S
reactant | sodium sulfite | 20 mL | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | (1-(5-Bromopyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(morpholino)methanone | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)S(=O)C | C18H17BrN4O3S
